US07807659B2
Method J: [3S/R,4S/R,(2S)]-5-Fluoro-4-hydroxy-3-[1-(isoquinoline-1-carbonyl)-2-piperidinecarboxamido]-pentanoic acid tert-butyl ester
A stirred mixture of (S)-1-(isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid (278 mg, 0.98 mmol), 3-amino-5-fluoro-4-hydroxy-pentanoic acid tert-butyl ester (213 mg, 1.03 mmol), HOBt (145 mg, 1.07 mmol), DMAP (137 mg, 1.12 mmol) and anhydrous THF (25 ml) was cooled to 0° C. then EDC (206 mg, 1.07 mmol) was added. The mixture was allowed to warm to room temperature during 16 hrs then concentrated under reduced pressure. The residue was purified by flash chromatography (5% methanol in DCM) to afford the title compound as a white foam (425 mg, 92%): 1H NMR (400 MHz, CDCl3) δ 1.20-3.30 (17H, m), 3.95-4.18 (2H, m), 4.29-4.64 (4H, m), 4.86-5.01 (1H, m), 7.65-8.00 (4H, m), 8.10-9.00 (3H, m); 19F (376 MHz, CDCl3) δ −229.39, −229.41, −229.57, −229.60, −229.64, −229.69, −230.41, −231.08.

reactant | (S)-1-(isoquinoline-1-carbonyl)-2-piperidinecarboxylic acid | 0.98 mmol, 278 mg | C1(=NC=CC2=CC=CC=C12)C(=O)N1[C@@H](CCCC1)C(=O)O | C16H16N2O3
reactant | 3-amino-5-fluoro-4-hydroxy-pentanoic acid tert-butyl ester | 1.03 mmol, 213 mg | C(C)(C)(C)OC(CC(C(CF)O)N)=O | C9H18FNO3
reactant | HOBt | 1.07 mmol, 145 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.07 mmol, 206 mg
catalyst | DMAP | 1.12 mmol, 137 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 5-Fluoro-4-hydroxy-3-[1-(isoquinoline-1-carbonyl)-2-piperidinecarboxamido]-pentanoic acid tert-butyl ester | 425 mg, 92% | C(C)(C)(C)OC(CC(C(CF)O)NC(=O)C1N(CCCC1)C(=O)C1=NC=CC2=CC=CC=C12)=O | C25H32FN3O5
